Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
lisinopril / Keflex
 
Attending: ___.
 
Chief Complaint:
Left facial swelling
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ self-described good-natured
female with a history of hypertension, depression and anxiety,
tobacco use who was recently diagnosed with cancer of the L
oropharynx. She did she presents with Left Facial Swelling ×1
Day.  She thinks that she bit the side of her cheek about 4 days
ago and then developed swelling with marked worsening yesterday. 

She reports chills but denies fevers.  Her left cheek was very
painful.  She had a feeding tube placed to 3 weeks ago.  Her
Port-A-Cath was patent placed 3 days ago.  She is able to 
swallow
saliva but she does feel as though her mouth and throat are
closing.  She denies difficulties breathing.  She denies
abdominal pain nausea or vomiting.  She reports ___ out of 10
constant throat pain.  She reports that she saw the dentist 
about
3 weeks ago at which time she had x-rays only.  She did not have
any dental cleaning.
She presented to ___ where a CAT scan was done
which demonstrated a lobulated enhancing mass of the left
oropharynx extending towards the left tonsillar fossa crossing
midline measuring at least 3.2×3.6×2.5 cm which had increased in
size.  There was stranding in the left premaxillary region
without discrete fluid collection with suggested possible
cellulitic changes at that level.  She was given clindamycin,
potassium, Toradol 30 mg IV
Upon arrival to the emergency room her blood pressure was ___
heart rate 90 temperature 98.2 and she was satting 92% on room
air.  She received Toradol 15 mg normal saline 1 L, and
dexamethasone 10 mg IV.

ROS: Pertinent positives and negatives as noted in the HPI.  All
other systems were reviewed and are negative. 

 
Past Medical History:
Hypertension, anxiety
 
Social History:
___
Family History:
Her mother died of lung cancer at age ___.  Her dad was murdered
in his ___.
 
Physical Exam:
VITALS: 97.4 PO 118 / 74 82 20 96 RA 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx with large mass protruding from the L oropharynx
effacing and displacing the uvula. 
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
Neck: No clear stridor
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
___ 10:05AM BLOOD WBC-10.5* RBC-3.82* Hgb-11.8 Hct-34.7 
MCV-91 MCH-30.9 MCHC-34.0 RDW-12.3 RDWSD-40.8 Plt ___
___ 07:05PM BLOOD WBC-11.5* RBC-3.87* Hgb-12.5 Hct-35.5 
MCV-92 MCH-32.3* MCHC-35.2 RDW-12.4 RDWSD-41.2 Plt ___
___ 07:05PM BLOOD Neuts-72.8* Lymphs-15.9* Monos-9.0 
Eos-1.5 Baso-0.3 Im ___ AbsNeut-8.37* AbsLymp-1.83 
AbsMono-1.04* AbsEos-0.17 AbsBaso-0.04
___ 07:05PM BLOOD ___ PTT-31.1 ___
___ 10:05AM BLOOD Glucose-133* UreaN-15 Creat-0.7 Na-140 
K-3.7 Cl-98 HCO3-29 AnGap-13
___ 07:05PM BLOOD Glucose-104* UreaN-14 Creat-0.8 Na-137 
K-3.6 Cl-96 HCO3-26 AnGap-15
___ 10:05AM BLOOD Calcium-9.7 Phos-3.9 Mg-1.9

CT scan of neck:
Lobulated enhancing mass of the left oropharynx extending 
towards
the left tonsillar fossa slightly crossing midline measuring at
least 3.2×3.6×2.5 cm increased from prior study compatible with
patient's known malignancy.  Multiple at least moderately in
enlarged level 2 lymph nodes on the left which are reported as
PET positive on recent imaging studies.
Evaluation of the soft tissues of the face are somewhat limited
by streak artifact from dental amalgam.  There is questionable
subtle subcutaneous fat stranding in the left premaxillary 
region
without discrete fluid collection.  This suggests possible
cellulitic changes at that level.

 
Brief Hospital Course:
Ms. ___ is a ___ female with recently diagnosed
cancer of the tonsil was not yet received chemotherapy status
post Port-A-Cath placement and PEG tube placement who presents
with swelling of the left cheek ×1 day along with chills.

#Left facial cellulitis
#Oropharyngeal cancer:
The patient was admitted to the Hospital Medicine service and 
was seen by the ENT consult service.  They recommended 
Dexamethasone 10 mg every 8 hours ×3 doses which were done ___ 
- ___.  In addition, she received Clindamycin 600mg IV q8 
hours.  These therapies resulted in significant improvement in 
her swelling.  She never had difficulty breathing, swallowing, 
or handling her secretions.  She was able to chew more 
effectively, even though she still had some biting of her cheek. 
 Despite these temporizing measures, we thought that she would 
ultimately benefit from XRT to that area.  She has an 
appointment for ___, 2 days after discharge to begin therapy 
with a hospital associated with ___.  She will seek ENT care in 
follow-up in that ___.  Speech therapy said no 
swallowing restrictions (though soft diet was felt to be easier 
for her to chew).  She will complete a course of ABX with 
Clindamycin 300mg PO TID for 6 additional days.  

# Htn: Continue amlodipine and hydrochlorothiazide.
# Depression and anxiety continue Prozac

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. FLUoxetine 20 mg PO DAILY 
2. Hydrochlorothiazide 25 mg PO DAILY 
3. Omeprazole 20 mg PO DAILY 
4. amLODIPine 10 mg PO DAILY 
5. HYDROcodone-Acetaminophen (5mg-325mg) 1 TAB PO Q6H:PRN Pain - 
Moderate 
6. Clindamycin 600 mg IV Q8H 

 
Discharge Medications:
1.  Clindamycin 300 mg PO Q8H 
RX *clindamycin HCl 300 mg 1 capsule(s) by mouth every eight (8) 
hours Disp #*18 Capsule Refills:*0 
2.  Omeprazole 40 mg PO BID 
RX *omeprazole 40 mg 1 capsule(s) by mouth twice a day Disp #*60 
Capsule Refills:*0 
3.  amLODIPine 10 mg PO DAILY  
4.  FLUoxetine 20 mg PO DAILY  
5.  Hydrochlorothiazide 25 mg PO DAILY  
6.  HYDROcodone-Acetaminophen (5mg-325mg) 1 TAB PO Q6H:PRN Pain 
- Moderate  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left facial cellulitis 
Oropharyngeal cancer 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with swelling ot the left cheek from the tumor 
which was also infected. You were seen by ENT and improved with 
IV steroids as well as IV antibiotics (clindamycin).  

It was a pleasure to participate in your care,
Your ___ Team 
 
Followup Instructions:
___